US08211914B2
A solution of 1-{4-[(2-phenyl-5-trifluoromethyl-oxazole-4-carbonyl)-amino]-phenyl}-piperidine-4-carboxylic acid ethyl ester (1.1 g, 2.3 mmol) in 20 mL of MeOH was treated with 2.8 mL (5.6 mmol) of 2 N NaOH, and the reaction mixture was stirred at room temperature overnight. The resulting mixture was then concentrated to remove most of the MeOH solvent. The residue was then neutralized with concentrated HCl. A white precipitate formed. The product was then collected by filtration, washed with water, triturated with ether, and dried to furnish 0.82 g of 1-{4-[(2-phenyl-5-trifluoromethyl-oxazole-4-carbonyl)-amino]-phenyl}-piperidine-4-carboxylic acid. This material was used in the next step without further purification.

reactant | 1-{4-[(2-phenyl-5-trifluoromethyl-oxazole-4-carbonyl)-amino]-phenyl}-piperidine-4-carboxylic acid ethyl ester | 2.3 mmol, 1.1 g | C(C)OC(=O)C1CCN(CC1)C1=CC=C(C=C1)NC(=O)C=1N=C(OC1C(F)(F)F)C1=CC=CC=C1 | C25H24F3N3O4
reactant | NaOH | 5.6 mmol, 2 N, 2.8 mL | [OH-].[Na+]
solvent | MeOH | 20 mL | CO | CH4O
product | 1-{4-[(2-phenyl-5-trifluoromethyl-oxazole-4-carbonyl)-amino]-phenyl}-piperidine-4-carboxylic acid | 0.82 g | C1(=CC=CC=C1)C=1OC(=C(N1)C(=O)NC1=CC=C(C=C1)N1CCC(CC1)C(=O)O)C(F)(F)F | C23H20F3N3O4
